US09108939B2
D: 1-(Cyclopropylmethyl)-3-(4-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzoyl)piperidin-4-yloxy)phenyl)urea
1-(cyclopropylmethyl)-3-(4-(piperidin-4-yloxy)phenyl)urea (1.037 mmol, 300 mg), 4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzoic acid (1.037 mmol, 299 mg) and triethylamine (3.11 mmol, 0.432 mL, 315 mg) were combined and stirred at room temperature in dichloromethane (5 mL). 1-Propanephosphonic acid cyclic anhydride (1.555 mmol, 0.926 mL, 990 mg; 50% solution in ethyl acetate) was added and the reaction stirred at room temperature for 1 hour. The reaction mixture was washed with saturated sodium bicarbonate solution and the organic layer was separated, dried and concentrated under vacuum. The residue was dissolved in dichloromethane and purified by silica column chromatography (eluent 2-8% methanol in dichloromethane) to afford the title compound (24 mg). MS (ESI) m/z 560.2 [M+H]+

reactant | 1-(cyclopropylmethyl)-3-(4-(piperidin-4-yloxy)phenyl)urea | 1.037 mmol, 300 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)OC1CCNCC1 | C16H23N3O2
reactant | 4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzoic acid | 1.037 mmol, 299 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C(=O)O)C=C1)(F)F | C10H6F6O3
reactant | triethylamine | 3.11 mmol, 0.432 mL, 315 mg | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 1.555 mmol, 0.926 mL, 990 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(Cyclopropylmethyl)-3-(4-(1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzoyl)piperidin-4-yloxy)phenyl)urea | 24 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)OC1CCN(CC1)C(C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)=O | C26H27F6N3O4
